### PR TITLE
rt refine: sendIPC_corres

### PR DESCRIPTION
**Pull request by MitchellBuckley**
This proves `sendIPC_corres` and attempts to do so with minimal other impact on proofs, aside from some strengthening of lemmas for `replyPush` and `schedContextDonate`.

### CODE REVIEW

**Review by corlewis — APPROVED** [review]
Looks great to me! All of my comments are pretty minor.

File: proof/refine/ARM/Ipc_R.thy [hunk 1]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+lemma no_replySC_valid_replies'_sc_asrt:
+  "replySCs_of s r = None \<Longrightarrow> valid_replies'_sc_asrt r s"
+  unfolding valid_replies'_sc_asrt_def
+  by (simp)
+
+crunches doIPCTransfer
+  for replySCs_of[wp]: "\<lambda>s. P (replySCs_of s)"
+  (wp: crunch_wps simp: crunch_simps)
+
+(* FIXME RT: replace get_ep_valid_ep with this better version *)
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2496]: It probably lives in AInvs, so it would also involve changes to AInvs. By default I try to restrict these PRs to lib+Refine only, but don't need to. Do you think it's worth updating AInvs while I'm here?

[the remark this answers is not in the document]
Comment (corlewis) [reply proof/refine/ARM/Ipc_R.thy:2496]: Maybe just to `Move_R` then? If nothing else, that makes it accessible to the RISCV64 proofs as well.

File: proof/refine/ARM/Ipc_R.thy [hunk 2]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
-  sorry
+proof -
+  show ?thesis
+    apply (insert assms)
+    apply add_sym_refs
+    apply (unfold send_ipc_def sendIPC_def Let_def)
+    apply (rule corres_stateAssert_assume)
+     apply (clarsimp split del: if_split)
+     apply (rule corres_guard_imp)
+       apply (rule corres_split_deprecated [OF _ get_ep_corres, where
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2543]: Ah, yes, I reused lots of the old proof, but I'll correct it as you've suggested.

File: proof/refine/ARM/IpcCancel_R.thy [hunk 3]
```diff
@@ -689,15 +688,13 @@ lemma no_fail_sc_wtih_reply_None_helper:
...
-              and st_tcb_at ((=) st) t and (\<lambda>s. sym_refs (state_refs_of s)))
+  "corres dc (valid_objs and pspace_aligned and pspace_distinct and valid_replies
+              and st_tcb_at ((=) (Structures_A.thread_state.BlockedOnReply rp)) t and (\<lambda>s. sym_refs (state_refs_of s)))
              (valid_objs' and valid_release_queue_iff and (\<lambda>s'. sym_refs (list_refs_of_replies' s')))
                 (reply_remove_tcb t rp) (replyRemoveTCB t)"
-  (is "\<lbrakk> _ ; _ \<rbrakk> \<Longrightarrow> corres _ ?abs_guard ?conc_guard _ _")
+  (is "corres _ ?abs_guard ?conc_guard _ _")
   apply add_sym_refs
-  apply (rule_tac Q="st_tcb_at' ((=) st') t" in corres_cross_add_guard)
+  apply (rule_tac Q="st_tcb_at' ((=) (Structures_H.thread_state.BlockedOnReply (Some rp))) t" in corres_cross_add_guard)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:697]: I don't think we need the `Structures_H.thread_state` here

File: proof/refine/ARM/IpcCancel_R.thy [hunk 4]
```diff
@@ -731,9 +728,10 @@ lemma replyRemoveTCB_corres:
     apply (rule corres_symb_exec_r_sr)
        apply (rule corres_guard_imp)
          apply (rule reply_unlink_tcb_corres[simplified dc_def])
-         apply (rule disjI2, simp)
-        apply (clarsimp dest!: valid_objs_valid_tcbs st_tcb_reply_state_refs
-                         simp: obj_at_def is_reply reply_tcb_reply_at_def)
+        apply (clarsimp dest!: valid_objs_valid_tcbs)
+        apply (intro conjI)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:732]: Can you solve this and the next two lines with just one command? It might be nicer than using `intro conjI` and then relying on the order being as it is now

File: proof/refine/ARM/IpcCancel_R.thy [hunk 5]
```diff
@@ -849,11 +846,14 @@ lemma replyRemoveTCB_corres:
...
                      apply (clarsimp simp: getHeadScPtr_def reply_sc_reply_at_def obj_at_def is_reply
                                     split: reply_next.splits)
-                     apply (clarsimp dest!: valid_objs_valid_tcbs st_tcb_reply_state_refs
+                     apply (frule (1) st_tcb_reply_state_refs)
+                     apply (clarsimp dest!: valid_objs_valid_tcbs
                                       simp: obj_at_def is_reply reply_tcb_reply_at_def)
                      apply (clarsimp simp: opt_map_left_Some opt_map_def split: option.splits)
                      apply (rule context_conjI; clarsimp simp: vs_heap_simps obj_at_def)
+                     apply (intro conjI)
                      apply (metis list.sel(1) list.set_cases)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/IpcCancel_R.thy:855]: The indentation must be off if `intro conjI` succeeds on the previous line

File: proof/refine/ARM/Ipc_R.thy [hunk 6]
```diff
@@ -2053,23 +2060,36 @@ lemma bind_sc_reply_invs[wp]:
...
   "can_donate = can_donate' \<Longrightarrow>
-   corres dc (invs and tcb_at caller and tcb_at callee and reply_at reply_ptr
-              and ex_nonz_cap_to reply_ptr
-              and st_tcb_at active caller
-              and reply_sc_reply_at (\<lambda>scp. scp = None) reply_ptr
-              and reply_tcb_reply_at (\<lambda>tptr. tptr = None) reply_ptr
-              and weak_valid_sched_action and scheduler_act_not caller)
-             (valid_release_queue_iff and valid_objs' and valid_queues and valid_queues')
+   corres dc (valid_replies and pspace_aligned and pspace_distinct and valid_objs and
+              (\<lambda>_. caller \<noteq> idle_thread_ptr) and tcb_at caller and tcb_at callee and
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2080]: Since we're discussing style guide stuff, is there a preference for having connectives at the end of the line versus the beginning of the next line? I prefer having them at the beginning of the line so I don't have to hunt back to the end of the previous line to double check what the connective is

File: proof/refine/ARM/Ipc_R.thy [hunk 7]
```diff
@@ -2053,23 +2060,36 @@ lemma bind_sc_reply_invs[wp]:
...
+    valid_replies'_sc_asrt reply_ptr)
    (reply_push caller callee reply_ptr can_donate)
    (replyPush caller callee reply_ptr can_donate')"
   unfolding reply_push_def replyPush_def
   apply clarsimp
-  apply add_sym_refs
-  apply (rule_tac Q="\<lambda>s. valid_replies'_sc_asrt reply_ptr s" in corres_cross_add_guard)
-   apply (fastforce elim: valid_replies_sc_cross)
-  apply (rule corres_stateAssert_implied[where P'=\<top>, simplified])
+   apply (rule corres_stateAssert_implied[where P'=\<top>, simplified])
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2092]: I think there is one space too many at the beginning of this line

File: proof/refine/ARM/Ipc_R.thy (hunk 6 above)
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2080]: `K ( caller ~= idle_thread_ptr)` instead?

File: proof/refine/ARM/Ipc_R.thy [hunk 8]
```diff
@@ -2082,60 +2102,30 @@ lemma replyPush_corres:
...
+           apply (wpsimp wp: thread_get_wp, assumption)
+          apply (wpsimp wp: threadGet_wp)
+         apply (clarsimp simp: tcb_relation_def)
+        apply (wpsimp wp: thread_get_wp')
       apply (wpsimp wp: threadGet_wp)
      apply (subgoal_tac "caller \<noteq> reply_ptr")
       apply (subgoal_tac "caller \<noteq> idle_thread_ptr")
-       apply (clarsimp simp: invs_def valid_state_def
-                             valid_pspace_def cong: conj_cong)
+       apply (clarsimp simp: cong: conj_cong)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2121]: Unnecessary `simp:`

File: proof/refine/ARM/Ipc_R.thy [hunk 9]
```diff
@@ -2082,60 +2102,30 @@ lemma replyPush_corres:
...
-         apply assumption
-        apply (clarsimp simp: pred_tcb_at_def obj_at_def)
-       apply (erule (1) if_live_then_nonz_capD)
-       apply (clarsimp simp: live_def  is_tcb obj_at_def)
-       apply (frule (1) bound_sc_tcb_at_idle_sc_idle_thread[where t=caller])
-        apply (clarsimp simp: pred_tcb_at_def obj_at_def)
-       apply simp
-      apply clarsimp
-      apply (frule invs_valid_idle)
+           apply (subst sc_at_ppred_exm; clarsimp)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2126]: I would have thought this would solve at most one subgoal, so maybe indentation is off

File: proof/refine/ARM/Ipc_R.thy [hunk 10]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+  by (wpsimp simp: tcbSchedEnqueue_def)
+
+lemma replyPush_valid_objs'[wp]:
+  "replyPush callerPtr calleePtr replyPtr canDonate \<lbrace>valid_objs'\<rbrace>"
+  supply if_split [split del]
+  unfolding replyPush_def updateReply_def bind_assoc
+  apply (wpsimp wp: schedContextDonate_valid_objs' updateReply_valid_objs'
+                    hoare_vcg_if_lift2 threadGet_wp hoare_vcg_imp_lift')
+  apply (clarsimp simp: obj_at'_def projectKOs)
+  apply (safe; (fastforce simp: obj_at'_def projectKOs valid_tcb_state'_def)?)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2437]: `intro conjI impI` or something instead of `safe`?

File: proof/refine/ARM/Ipc_R.thy [hunk 11]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+
+definition receive_reply :: "Structures_A.thread_state \<Rightarrow> obj_ref option" where
+  "receive_reply st \<equiv> case st of
+           (Structures_A.thread_state.BlockedOnReceive ep reply_opt pl) \<Rightarrow> reply_opt"
+
+lemma receive_reply_sel:
+  "receive_reply (Structures_A.thread_state.BlockedOnReceive ep reply_opt pl) = reply_opt"
+  by (simp add: receive_reply_def)
+
+lemma BlockedOnReceive_reply_tcb_reply_at:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2511]: Use `[| ...; ...|] ==> _` format

File: proof/refine/ARM/Ipc_R.thy [hunk 12]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+  "\<exists>epptr pl. st_tcb_at ((=) (Structures_A.BlockedOnReceive epptr (Some rptr) pl)) tptr s
+   \<Longrightarrow> sym_refs (state_refs_of s) \<Longrightarrow> valid_objs s
+   \<Longrightarrow> reply_tcb_reply_at (\<lambda>x. x = Some tptr) rptr s"
+  apply (subgoal_tac "reply_at rptr s")
+  apply (clarsimp simp: pred_tcb_at_eq_commute)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2516]: Indentation

File: proof/refine/ARM/Ipc_R.thy [hunk 13]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+           (Structures_A.thread_state.BlockedOnReceive ep reply_opt pl) \<Rightarrow> reply_opt"
+
+lemma receive_reply_sel:
+  "receive_reply (Structures_A.thread_state.BlockedOnReceive ep reply_opt pl) = reply_opt"
+  by (simp add: receive_reply_def)
+
+lemma BlockedOnReceive_reply_tcb_reply_at:
+  "\<exists>epptr pl. st_tcb_at ((=) (Structures_A.BlockedOnReceive epptr (Some rptr) pl)) tptr s
+   \<Longrightarrow> sym_refs (state_refs_of s) \<Longrightarrow> valid_objs s
+   \<Longrightarrow> reply_tcb_reply_at (\<lambda>x. x = Some tptr) rptr s"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2514]: Could you use a more descriptive bound variable than `x`?

File: proof/refine/ARM/Ipc_R.thy [hunk 14]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
-                                      and valid_sched_except_blocked_except_released_ipc_qs
-                                      and st_tcb_at active t and ep_at ep
-                                      and ex_nonz_cap_to t and scheduler_act_not t
-                                      and (\<lambda>s. cd \<longrightarrow> bound_sc_tcb_at (\<lambda>a. \<exists>y. a = Some y) t s))
+              and valid_sched_action and ep_at ep and ex_nonz_cap_to t and tcb_at t
+              and scheduler_act_not t and (\<lambda>s. cd \<longrightarrow> bound_sc_tcb_at (\<lambda>a. \<exists>y. a = Some y) t s))
              (invs' and sch_act_not t and tcb_at' t and ep_at' ep)
              (send_ipc bl call bg cg cgr cd t ep) (sendIPC bl call bg cg cgr cd t ep)"
-  sorry
+proof -
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2535]: Is there a reason to start this off as an Isar proof?

File: proof/refine/ARM/Ipc_R.thy [hunk 15]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+                        valid_sched_action and
+                        valid_ep rv and obj_at (\<lambda>ob. ob = Endpoint rv) ep
+                        and ex_nonz_cap_to t and scheduler_act_not t
+                        and (\<lambda>s. cd \<longrightarrow> bound_sc_tcb_at (\<lambda>a. \<exists>y. a = Some y) t s)"
+                and
+                R'="\<lambda>rv'. invs' and tcb_at' t and sch_act_not t
+                                and ep_at' ep and valid_ep' rv'
+                                and ko_at' (rv' :: endpoint) ep
+                                and (\<lambda>s'. sym_refs (state_refs_of' s'))"])
+         apply (case_tac epa)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2554]: `rename_tac` this `epa` and `bl` in the next line?

File: proof/refine/ARM/Ipc_R.thy [hunk 16]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+                            simp del: dc_simp split del: if_split cong: if_cong)
+                apply (rule corres_split_deprecated [OF _ dit_corres])
+                  apply (rule corres_split_deprecated[where r'=dc])
+                     apply (simp only: get_tcb_obj_ref_def)
+                     apply (rule corres_split_deprecated [OF _ threadget_corres[where r="(=)"]])
+                        apply (rule corres_split_deprecated[OF _ threadget_corres[where r=fault_rel_optionation]])
+                           apply (rule corres_split_deprecated[OF _ corres_if[where r=dc], where r=dc])
+                                apply (rule corres_split_deprecated [OF possibleSwitchTo_corres sts_corres])
+                                  apply clarsimp
+                                 prefer 4 \<comment> \<open>deferring Hoare triples\<close>
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2603]: Is there a nicer way than using `prefer 4` here? Maybe even a `rotated n` would be slightly nicer

File: proof/refine/ARM/Ipc_R.thy [hunk 17]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+                                  apply (clarsimp simp: tcb_relation_def)
+                                 \<comment> \<open>starting Hoare triples\<close>
+                                 apply (wpsimp wp: thread_get_wp')
+                                apply (wpsimp wp: threadGet_wp)
+                               apply (wpsimp wp: set_thread_state_valid_sched_action)
+                              apply wpsimp
+                             apply (clarsimp simp: fault_rel_optionation_def)
+                           apply (rule_tac Q="\<lambda>_. valid_objs and pspace_aligned and pspace_distinct
+                                    and tcb_at a and valid_sched_action"
+                                    in hoare_strengthen_post[rotated])
```
[the remark this answers is not in the document]
Comment (michaelmcinerney) [reply proof/refine/ARM/Ipc_R.thy:2622]: And maybe `rename_tac` this `a` too

File: proof/refine/ARM/Ipc_R.thy [hunk 18]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+                                              reply_at' (the data) s \<and>
+                                              replySCs_of s (the data) = None)"
+                                         in hoare_strengthen_post[rotated])
+                   apply (clarsimp cong: conj_cong)
+                   apply (frule valid_objs'_valid_tcbs')
+                   apply (drule obj_at_ko_at')+
+                   apply (blast dest: no_replySC_valid_replies'_sc_asrt)
+                  apply wpsimp
+                 apply (wpfix add: receive_reply_sel)
+                 apply (rule_tac Q="\<lambda>_. valid_objs and pspace_aligned and pspace_distinct and
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2679]: Can any of these large blocks be made simpler by using pattern matching against the statement of the lemma?

File: proof/refine/ARM/Ipc_R.thy [hunk 19]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+                          \<longrightarrow> st_tcb_at ((=) (Structures_A.thread_state.BlockedOnReceive ep data pl)) a s \<and>
+                          ex_nonz_cap_to (the data) s \<and>
+                          reply_tcb_reply_at ((=) (Some a)) (the data) s \<and>
+                          reply_sc_reply_at (\<lambda>a. a = None) (the data) s \<and>
+                          the data \<notin> fst ` replies_with_sc s)"
+                          in hoare_strengthen_post[rotated])
+               apply (clarsimp split: option.splits)
+                  apply (intro conjI)
+                    apply (erule valid_objs_valid_tcbs)
+                   apply (clarsimp simp: pred_tcb_at_def obj_at_def is_tcb, fastforce)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2694]: Indentation seems off

File: proof/refine/ARM/Ipc_R.thy [hunk 20]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+               apply fastforce
+                  apply (clarsimp simp: sk_obj_at_pred_def obj_at_def is_reply)
+                 apply (wpsimp wp: hoare_vcg_imp_lift hoare_vcg_all_lift simp: iff_conv_conj_imp)
+                apply (wpfix add: Structures_H.thread_state.sel)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2698]: Is the `Structures_H` necessary?

File: proof/refine/ARM/Ipc_R.thy [hunk 21]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+                apply (rule_tac Q="\<lambda>_. tcb_at' t and tcb_at' a and valid_release_queue and
+                                       valid_release_queue' and valid_queues and valid_objs' and
+                                       valid_queues' and (\<lambda>s. data \<noteq> None \<longrightarrow> reply_at' (the data) s \<and>
+                                       replySCs_of s (the data) = None)"
+                                       in hoare_strengthen_post[rotated])
+                 apply (fastforce split: option.splits)
+                apply (wpsimp wp: hoare_vcg_imp_lift)
+               apply (assumption)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2706]: Unnecessary brackets

File: proof/refine/ARM/Ipc_R.thy [hunk 22]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+              apply (prop_tac "(tcb_at' t and tcb_at' a and valid_pspace' and cur_tcb' and
+                                ep_at' ep and valid_release_queue and valid_release_queue' and
+                                valid_queues and valid_objs' and valid_mdb' and valid_queues') s'",
+                     assumption)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2710]: Indentation

File: proof/refine/ARM/Ipc_R.thy [hunk 23]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+    apply clarsimp
+    apply (case_tac data; clarsimp simp: receive_reply_def)
+    apply (subgoal_tac "reply_at' aa s'", simp)
+    apply (frule (1) replySCs_of_cross, simp)
+    apply (erule cross_relF[OF _ reply_at'_cross_rel])
+    apply (clarsimp simp: obj_at_def reply_sc_reply_at_def is_reply)
+               apply (wpsimp wp: gts_wp)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2717]: Indentation

File: proof/refine/ARM/Ipc_R.thy [hunk 24]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+              apply (wpsimp wp: gts_wp')
+             apply (clarsimp simp: ep_relation_def split: list.splits)
+            apply (wpsimp wp: hoare_vcg_all_lift hoare_vcg_imp_lift' hoare_vcg_disj_lift)
+           apply (wpsimp wp: hoare_vcg_all_lift hoare_vcg_imp_lift' hoare_vcg_disj_lift)
+          \<comment> \<open>end of main Hoare triples\<close>
+          apply (subgoal_tac "tcb_at a s")
+          apply (subgoal_tac "a \<noteq> ep")
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2724]: Indentation

File: proof/refine/ARM/Ipc_R.thy [hunk 25]
```diff
@@ -2304,20 +2296,478 @@ crunches doIPCTransfer, possibleSwitchTo
...
+                apply (clarsimp simp: obj_at_def live_def)
+               apply (erule weak_valid_sched_action_scheduler_action_not)
+               apply (clarsimp simp: obj_at_def pred_tcb_at_def)
+              apply (clarsimp, erule (1) FalseI[OF idle_no_ex_cap], clarsimp simp: valid_idle_def)
+        apply (case_tac "receive_reply x"; simp)
+        apply (subgoal_tac "data = Some aa", simp)
+         apply (subgoal_tac "reply_tcb_reply_at ((=) (Some a)) aa s", simp)
+         apply (subgoal_tac "reply_sc_reply_at (\<lambda>a. a = None) aa s", simp)
+          apply (intro conjI)
+                 apply (clarsimp simp: sk_obj_at_pred_def obj_at_def)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Ipc_R.thy:2744]: I think some of thse subgoals could be `fastforce`d, which could make it a little easier to read? No big deal, though

**Review by michaelmcinerney — APPROVED** [review]
Nice nice nice

File: proof/refine/ARM/Ipc_R.thy (hunk 6 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2081]: I agree.

File: proof/refine/ARM/Ipc_R.thy (hunk 2 above)
[the remark this answers is not in the document]
Comment (corlewis) [reply proof/refine/ARM/Ipc_R.thy]: It's not a big deal, especially when reusing proofs like that, so it's up to you whether to change it here or not. My comment was really a reminder for the future.

File: proof/refine/ARM/Ipc_R.thy (hunk 14 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2526]: Nope, only there because I was reusing old proofs to make this one. Will change it.

File: proof/refine/ARM/Ipc_R.thy (hunk 6 above)
Comment (corlewis) [reply proof/refine/ARM/Ipc_R.thy:2081]: This is one which might be hard to get complete consensus on. Personally, I agree with both of you with having connectives like `and` and `|` at the start but at the same time still prefer things like `,` and `;` at the end.

Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2081]: One could say "logical connectives should be at the start of new lines with the exception of puncuation (e.g. `,` and `;`"

Comment (corlewis) [reply proof/refine/ARM/Ipc_R.thy]: That would be my style but I know that some others like all connectives to go at the start, including `,` and `;`. As is usually the case, we're not going to make everyone happy so at some point we'll just need to pick an approach and stick with it until we all adjust.

**Review by mktnk3 — APPROVED** [review]
Great to see another big corres proof done!

File: proof/refine/ARM/Ipc_R.thy [hunk 26]
```diff
@@ -2304,20 +2297,454 @@ crunches doIPCTransfer, possibleSwitchTo
...
+  done
+
+crunches doIPCTransfer
+  for reply_projs[wp]: "\<lambda>s. P (replyNexts_of s) (replyPrevs_of s) (replyTCBs_of s) (replySCs_of s)"
+  (wp: crunch_wps simp: crunch_simps)
+
+lemma BlockedOnReceive_reply_tcb_reply_at:
+  "\<lbrakk>\<exists>epptr pl. st_tcb_at ((=) (Structures_A.BlockedOnReceive epptr (Some rptr) pl)) tptr s;
+    sym_refs (state_refs_of s); valid_objs s\<rbrakk>
+   \<Longrightarrow> reply_tcb_reply_at (\<lambda>tp_opt. tp_opt = Some tptr) rptr s"
```
[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Ipc_R.thy:2498]: > This looks exactly the same as `DetSchedInvs_AI.BlockedOnReceive_reply_tcb_reply_at` (including the proof)...

So, if it is actually the same, we don’t need this lemma here, I suppose? And probably update the one in AInvs so that it doesn’t use `valid_objs`?

File: proof/refine/Move_R.thy [hunk 27]
```diff
@@ -457,4 +457,20 @@ lemma bind_dummy_ret_val:
...
+lemma tcb_obj_at_equiv:
+  "tcb_at g s \<Longrightarrow> obj_at (P s) g s = (\<forall>ko. ko_at ko g s \<and> is_tcb ko \<longrightarrow> P s ko)"
+  by (clarsimp simp: obj_at_def is_tcb)
+
+(* FIXME RT: replace get_ep_valid_ep with this better version *)
+lemma get_ep_valid_ep'[wp]:
+  "\<lbrace> valid_objs and ep_at ep \<rbrace>
+   get_endpoint ep
+   \<lbrace> valid_ep \<rbrace>"
+  by (wpsimp simp: ep_at_def2 valid_ep_def2 simp_del: valid_simple_obj_def wp_del: get_ep_valid_ep)
```
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/Move_R.thy:474]: Do you mind if I leave this as a cleanup task? I've been trying to keep my PRs restricted to refine because working across two images tends to slow down the process (I have to rebuild things all the time). But I will do the replacement if you are very sure you want it now.

[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/Move_R.thy:474]: Ah, but I see there is other overlap with AInvs on other comments. Hmm.

File: proof/refine/ARM/Ipc_R.thy (hunk 26 above)
[the remark this answers is not in the document]
Comment (MitchellBuckley) [reply proof/refine/ARM/Ipc_R.thy:2498]: I would not be surpised if this lemma exists, but I can't find it. Can you give me a line number in file in a branch?

[the remark this answers is not in the document]
Comment (mktnk3) [reply proof/refine/ARM/Ipc_R.thy:2498]: Hi Mitch. Sorry for the confusion, but this lemma has been actually removed in #255 . I was on an old branch. So, this was replaced by `st_tcb_recv_reply_state_refs`. If you look at #255 , it should be pretty straightforward to use `st_tcb_recv_reply_state_refs` instead of this one.

File: proof/refine/Move_R.thy [hunk 28]
```diff
@@ -457,15 +457,9 @@ lemma bind_dummy_ret_val:
...
-   lookup_cap_and_slot thread p
-   -,\<lbrace>\<lambda>ft s. valid_fault (ExceptionTypes_A.CapFault p' rp ft)\<rbrace>"
-  using lookup_cap_and_slot_valid_fault
-  apply (clarsimp simp: validE_E_def validE_def valid_def
-                 split: sum.splits)
-  apply (drule invs_valid_objs, fastforce)
-  done
+(* An "excluded middle" lemma for sc_at_ppred *)
+lemma sc_at_ppred_exm:
+  "sc_at g s \<Longrightarrow> sc_at_ppred p P g s = (\<not> sc_at_ppred p (\<lambda>x. \<not> P x) g s)"
```
Comment (mktnk3) [inline proof/refine/Move_R.thy:462]: I am not sure how this lemma is actually used in this PR, but it might be worth noting that the `sc_at` assumption is not needed for the implication from LH to RH. So, if the rewrite is actually used for simplification in this direction, we could do without this assumption and just have an imp lemma.

We do have lemmas similar to this one, such as:
```
lemma not_obj_at'_strengthen:
  "obj_at' (Not ∘ P) p s ⟹ ¬ obj_at' P p s"

lemma not_pred_tcb_at'_strengthen:
  "pred_tcb_at' f (Not ∘ P) p s ⟹ ¬ pred_tcb_at' f P p s"
```
we could write one for `sc_at_pred` along this line, too, maybe?

Comment (mktnk3) [reply proof/refine/Move_R.thy:462]: but I am not too sure about aligning all the negation.

Comment (MitchellBuckley) [reply proof/refine/Move_R.thy:462]: I agree that this approach will work if we are using this rewrite in the hypotheses of a proof, for in that case the full strength of the equality is not needed. However, if we are using this rewrite in the goal of a proof, then we would instead need "RH implies LH" which is not generally true. The use cases in my proofs are both substitutions in the goal and so the assumption is needed.

I could write two lemmas:
* LH implies RH, no assumption
* RH implies LH, with assumption
but I'm not sure that would be any neater.

Comment (MitchellBuckley) [reply proof/refine/Move_R.thy:462]: If it's ok, I'd like to leave this as it is.

Comment (mktnk3) [reply proof/refine/Move_R.thy:462]: yes, I said the assumption is redundant for going LH to RH. This lemma as an equality as it is now is not very good in that the use of it for simplifying LH -> RH will require us to prove an unnecessary condition, won’t it?

I would think having LH -> RH as an implication lemma is good. I am not sure about the other direction. There might be a better formulation. But, if it has to be an equality, I’d think it should be in the form of A = (B & C) (or something like that) rather than B => (A = C).

Comment (MitchellBuckley) [reply proof/refine/Move_R.thy:462]: I can do this
```
sc_at_ppred p P g s = (obj_at (λko. ∃sc n. ko = SchedContext sc n) g s ∧ ¬ sc_at_ppred p (λx. ¬ P x) g s)
```
but `sc_at` has something funky about valid sizes which is annoying.

Comment (mktnk3) [reply proof/refine/Move_R.thy:462]: Ah, I see. I think it can be `bound (scs_of s g)` in this case, instead of `sc_at`... we need to do some cleaning around these. Can we also use, say, `scp` instead of `g`?

Comment (mktnk3) [reply proof/refine/Move_R.thy:462]: but your `obj_at` version is equally good, I think.

Comment (MitchellBuckley) [reply proof/refine/Move_R.thy:462]: That should be equally easy for my proofs, is that the kind of thing you had in mind?

Comment (MitchellBuckley) [reply proof/refine/Move_R.thy:462]: Cool, thanks.
